US08278441B2
(4aS,7aS)-7a-(4-Fluoro-3-(pyrimidin-5-yl)phenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-amine dihydrochloride
A solution of 1 M hydrogen chloride in diethyl ether is added in excess to (4aS,7aS)-7a-(4-fluoro-3-(pyrimidin-5-yl)phenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-amine (22 mg, 66.59 mmol) in minimal dichloromethane. The solvent is removed under reduced pressure to give the title compound (27 mg, 100%). LC-ES/MS m/e: 331 (M+1).

reactant | hydrogen chloride | 1 M | Cl | ClH
reactant | (4aS,7aS)-7a-(4-fluoro-3-(pyrimidin-5-yl)phenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-amine | 66.59 mmol, 22 mg | FC1=C(C=C(C=C1)[C@@]12N=C(SC[C@@H]1COC2)N)C=2C=NC=NC2 | C16H15FN4OS
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4aS,7aS)-7a-(4-Fluoro-3-(pyrimidin-5-yl)phenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-amine dihydrochloride | 27 mg, 100% | Cl.Cl.FC1=C(C=C(C=C1)[C@@]12N=C(SC[C@@H]1COC2)N)C=2C=NC=NC2 | InChI=1S/C16H15FN4OS.2ClH/c17-14-2-1-11(3-13(14)10-4-19-9-20-5-10)16-8-22-6-12(16)7-23-15(18)21-16;;/h1-5,9,12H,6-8H2,(H2,18,21);2*1H/t12-,16+;;/m0../s1
